US07507726B2
4-(3-Buten-1-yl)-6-(2-furanyl)-2-(methylthio)pyrimidine
To a solution of 4-(3-buten-1-yl)-6-chloro-2-(methylthio)-pyrimidine (0.79 g, 3.69 mmol), 2-furanylboronic acid (0.45 g, 4.06 mmol), aq. Na2CO3 solution (2M, 4.1 mL) in dioxane (37 mL) at room temperature was added tetrakis(triphenylphosphine)palladium(0) (0.21 g, 0.185 mmol). The reaction mixture in sealed tube was stirred and refluxed at 110° C. for 18 hours. After the reaction was completed, the mixture was filtered through a pad of silica gel. The filtrate was evaporated in vacuo. The residue was dissolved in methylene chloride (30 mL). It was washed with water (30 mL×2). The organic layer was dried over MgSO4 and filtered, evaporated in vacuo. The residue was purified by column chromatography to provide the title compound. MH+247.

reactant | 4-(3-buten-1-yl)-6-chloro-2-(methylthio)-pyrimidine | 3.69 mmol, 0.79 g | C(CC=C)C1=NC(=NC(=C1)Cl)SC | C9H11ClN2S
reactant | 2-furanylboronic acid | 4.06 mmol, 0.45 g | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | Na2CO3 | 2M, 4.1 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 37 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.185 mmol, 0.21 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(3-Buten-1-yl)-6-(2-furanyl)-2-(methylthio)pyrimidine | C(CC=C)C1=NC(=NC(=C1)C=1OC=CC1)SC | C13H14N2OS
